US07435837B2
Treatment of (±)-(7-bromo-2,3-dihydro-1-benzofuran-2-yl)methyl 4-methylbenzenesulfonate (5.0 g, 13.05 mmol) with 2-methoxyphenylboronic acid (2.57 g, 16.96 mmol), dichlorobis(tri-o-tolylphosphine)-palladium(II) (0.532 g, 0.677 mmol), and potassium carbonate (4.51 g, 32.62 mmol) generally according to the procedure described for Intermediate 37 provided (±)-[7-(2-methoxyphenyl)-2,3-dihydro-1-benzofuran-2-yl]methyl 4-methylbenzenesulfonate. Treatment of the tosylate with sodium azide (0.76 g, 11.69 mmol) generally according to the procedure described for Intermediate 98 gave (±)-2-(azidomethyl)-7-(2-methoxyphenyl)-2,3-dihydro-1-benzofuran. Treatment of the azide with palladium on carbon (0.072 g, 10 wt. %) generally according to the procedure described for Example 1 provided 0.453 g (12%) of (±)-1-[7-(2-methoxyphenyl)-2,3-dihydro-1-benzofuran-2-yl]methanamine as a white solid, hydrochloride salt. mp >250° C.; Anal. calcd. for C16H17NO2HCl: C, 65.86; H, 6.22; N, 4.8. Found: C, 65.72; H, 6.15; N, 4.86.

reactant | (±)-(7-bromo-2,3-dihydro-1-benzofuran-2-yl)methyl 4-methylbenzenesulfonate | 13.05 mmol, 5.0 g | CC1=CC=C(C=C1)S(=O)(=O)OCC1OC2=C(C1)C=CC=C2Br | C16H15BrO4S
reactant | 2-methoxyphenylboronic acid | 16.96 mmol, 2.57 g | COC1=C(C=CC=C1)B(O)O | C7H9BO3
reactant | potassium carbonate | 32.62 mmol, 4.51 g | C([O-])([O-])=O.[K+].[K+]
reactant | (±)-[7-(2-methoxyphenyl)-2,3-dihydro-1-benzofuran-2-yl]methyl 4-methylbenzenesulfonate | CC1=CC=C(C=C1)S(=O)(=O)OCC1OC2=C(C1)C=CC=C2C2=C(C=CC=C2)OC | C23H22O5S
reactant | tosylate | S(=O)(=O)([O-])C1=CC=C(C)C=C1
reactant | sodium azide | 11.69 mmol, 0.76 g | [N-]=[N+]=[N-].[Na+]
catalyst | dichlorobis(tri-o-tolylphosphine)-palladium(II) | 0.677 mmol, 0.532 g | CC1=C([P](C2=C(C)C=CC=C2)([Pd]([P](C3=C(C)C=CC=C3)(C4=C(C)C=CC=C4)C(C=CC=C5)=C5C)(Cl)Cl)C6=C(C)C=CC=C6)C=CC=C1
product | (±)-2-(azidomethyl)-7-(2-methoxyphenyl)-2,3-dihydro-1-benzofuran | N(=[N+]=[N-])CC1OC2=C(C1)C=CC=C2C2=C(C=CC=C2)OC | C16H15N3O2
